US08110575B2
5′-(6-(indoline-1-carbonyl)pyrimidin-4-ylamino)-3-methyl-1′,3′-dihydrospiro[imidazolidin-4,2′-inden]-2,5-dione
80.0 mg (0.23 mmol) 6-(3-methyl-2,5-dioxo-1′,3′-dihydrospiro[imidazolidin-4,2′-inden]-5′-ylamino)pyrimidine-4-carboxylic acid, 30 μL (0.27 mmol) 2,3-dihydro-1H-indole, 70 μL (0.50 mmol) triethylamine and 80.0 mg (0.25 mmol) TBTU in 1.5 mL DMF were stirred for 4 h at RT. The reaction mixture was filtered through a syringe filter and purified by preparative HPLC. The product fractions were combined, concentrated by rotary evaporation and dried.

reactant | 6-(3-methyl-2,5-dioxo-1′,3′-dihydrospiro[imidazolidin-4,2′-inden]-5′-ylamino)pyrimidine-4-carboxylic acid | 0.23 mmol, 80.0 mg | CN1C(NC(C12CC1=CC=C(C=C1C2)NC2=CC(=NC=N2)C(=O)O)=O)=O | C17H15N5O4
reactant | 2,3-dihydro-1H-indole | 0.27 mmol, 30 μL | N1CCC2=CC=CC=C12 | C8H9N
reactant | triethylamine | 0.50 mmol, 70 μL | C(C)N(CC)CC | C6H15N
reactant | TBTU | 0.25 mmol, 80.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 5′-(6-(indoline-1-carbonyl)pyrimidin-4-ylamino)-3-methyl-1′,3′-dihydrospiro[imidazolidin-4,2′-inden]-2,5-dione | N1(CCC2=CC=CC=C12)C(=O)C1=CC(=NC=N1)NC=1C=C2CC3(CC2=CC1)N(C(NC3=O)=O)C | C25H22N6O3
